* CMOS Nand Transient Analysis

** This netlist is for Transient analysis of Cmos 2 input Nand Gate**
.tran2 tstop=8e-6 tstep=1e-9 out_steps=1
vpulse:Vin2 22 0 v1=0 v2=5 td=1e-6 per=4e-6 pw=2e-6 tr=0.002e-6 tf=0.002e-6
vpulse:Vin3 33 0 v1=0 v2=5 per=4e-6 pw=2e-6 tr=0.002e-6 tf=0.002e-6
**** Vdd connection
vsource:Vdd 1 0 vdc=5
***** Nand instantiation
cmos2nandx:nand 1 2 3 4 0 
**  Source Resistance and Capacitance
r:in2 22 2 r=10
r:in3 33 3 r=10
c:in2 2 0 c=1e-12
c:in3 3 0 c=1e-12
*** Load Resistance and Capacitance
r:R 4 0 r=1000000
c:C 4 0 c=1e-12
.options gnuplot
.out plot term 4 vt in "vout.out"
.out plot term 22 vt in "vin1.out"
.out plot term 33 vt in "vin2.out"
.end
