***** Test inverter
.options initTmp=400
.ref "tref"
.ref 0
.dc sweep="vsource:vin" start=0 stop=5 step=0.1
mosnekvt:m1 30 20 10 10 2000 "tref" type=-1 tmp=initTmp
mospekvt:m2 30 20 0  0 2005 "tref"  tmp=initTmp
vsource:vin 20 0 vdc=0
vsource:vdd 10 0 vdc=5

***output
r:Rout 30 0 r=1000000
**c:Cout 30 0 c=1e-12

** thermal
r:r1 2000 2001 r=6e3
r:r2 2005 2001 r =6e3
c:c1 2000 2001 c=1e-12
c:c2 2005 2001 c=1e-12
vsource:vt1 2001 "tref" vdc=initTmp

.options gnuplot
.out plot term 30 vt in "v.out"
.out plot element "vsource:vt1" 0 it in "i.out"
.end
