*CMOS Master Slave Negative Edge Triggered D FLIP FLOP 

* This netlist is for Transient analysis of D Flip Flop *
.tran2 tstop=12e-6 tstep=1e-9 
*********** D and CLK inputs *************
vpulse:Vin2 2 0 v1=0 v2=5 td=0e-6 per=4e-6 pw=2e-6 tr=0.002e-6 tf=0.002e-6
vpulse:Vin3 3 0 v1=5 v2=0 td=0e-6 per=2e-6 pw=1e-6 tr=0.002e-6 tf=0.002e-6
***** Vdd Connection *****
vsource:Vdd 1 0 vdc=5
******* Instantiation*************
dflipflopx:flop 1 2 3 4 5 0
***********Load Resistances*******
r:R1 4 0 r=1000000
r:R2 5 0 r=1000000
*** Plot ******
.options gnuplot
.out plot term 2 vt in "d.out"
.out plot term 3 vt in "clk.out"
.out plot term 4 vt in "Q_output.out"
.out plot term 5 vt in "Qbar_output.out"
.end
