**** Test netlist for  Foster N Port Model *****
*
* Test with a single complex pole
*

.ac start=0.010 stop=5 n_freqs=200

vsource:vin 1 0 vac = 1v 
r:rin 1 port1 r=1

FosterNPort:f1 port1 0 filename = "one_pole.txt" ports = 1

.options gnuplot

.options preamble="set term x11 font 'helvetica,13';
         set title 'Voltage at Input of Foster 1 Port';
         set xlabel 'FREQUENCY (Hz)'; set ylabel 'VOLTAGE' "
.out plot term "port1" vf mag preamble in "v2_ac.out"

.end
