* AC tlinp4 test

.ac start = 1 stop = 20GHz n_freqs=10000

vsource:v2 202 0  vac= 5

resistor:rs 1 202 r=75.

tlinp4:t1  1 0 2 ref2
+ z0mag=75.00 length=0.03 k=7 tand=.1 fscale=1.e10 alpha=1 fmax=2e10

resistor:rl 2 ref2  r=75.
.ref "ref2"

.options gnuplot

* Get the magnitude of the voltage at terminal 2. This is with respect to ref2
.options preamble1="set term x11 font 'helvetica,13';
set xlabel 'FREQUENCY (GHz)'; set ylabel 'MAGNITUDE (VOLTS)"
.out plot term 2 vf mag 1e-9 scalex preamble1 in "tlinp4.2.mag"

* Get the phase of the voltage at terminal 2. This is with respect to ref2
* prinphase gets the principal phase as opposed to the continuous phase.
.options preamble2="set term x11 font 'helvetica,13';
set xlabel 'FREQUENCY (GHz)'; set ylabel 'phase (DEGREES)"
.out plot term 2 vf prinphase 1e-9 scalex rad2deg preamble2 in "tlinp4.2.phase"

.end
