* Transient tlinp4 test. Convolution is used
.options f0 = 9e9
.svtr tstop = 4e-11 tstep = .00002e-9
vsource:v2 202 0 vdc= -6. vac= 5. f= f0 phase=90
resistor:rs 1 202 r=75.
tlinp4:t1  1 0 2 ref2
+ z0mag=75.00 length=978.57e-6 k=7 tand=.01 fscale=1.e10 alpha=1. fmax=1e10
resistor:r3 2 ref2  r=75.
open:1 2 ref2
.ref "ref2"
.options gnuplot
.out plot element "open:1" 0 ut in "tlinp4.2.svtr"
.end
