*CMOS XOR Transient Analysis

** This netlist is for Transient analysis of Cmos 2 input XOR Gate**

.tran2 tstop=8e-6 tstep=1e-9 out_steps=1
vpulse:Vin3 3 0 v1=0 v2=1.8 per=4e-6 pw=2e-6 tr=0.002e-6 tf=0.002e-6

**** Vdd connection
vsource:Vdd 1 0 vdc=1.8

***** XOR instantiation
** Delay one of the input
delay:d1 3 0 2 0 delay=1e-6 res=100
xor:x1 1 3 2 4 0 ln=0.18e-6 wn=1.8e-6 lp=0.18e-6 wp=2.4e-6


**  Source Resistance and Capacitance
r:Rin0 2 0 r=100
r:Rin1 3 0 r=100
c:Cin2 2 0 c=1e-12
c:Cin3 3 0 c=1e-12

*** Load Resistance and Capacitance
r:Rload 4 0 r=1000000

.options gnuplot
.out plot term 4 vt in "vout.out"
.out plot term 3 vt in "vin1.out"
.out plot term 2 vt in "2.out"
.end

