# ifREEDA 0.1  /home/nmkripla/releases/freeda-1.3/simulator/projects/thermalMMIC_prj/thermalMMIC1_tr.sch

.options deltat=1us nsteps=101 temp=300.




thermalheatsinkmmic1:t1 1 2 ntimesteps=nsteps dt=deltat tambient=temp time_d=1
vsource:v1 2 0 vdc=temp
isource:i1 1 0 idc=0.4
r:r1 1 2 r=1e5


.svtr tstop=100us tstep=deltat n_freqs=8


.out plot element "thermalheatsinkmmic1:t1" 0 it  in "/home/nmkripla/releases/freeda-1.3/simulator/projects/thermalMMIC_prj/input.power"
.out plot element "thermalheatsinkmmic1:t1" 0 ut  in "/home/nmkripla/releases/freeda-1.3/simulator/projects/thermalMMIC_prj/output.temperaturec"



.end
