* CMOS Inverter Test 2
* Transient Response

.tran2 tstop=4e-6 tstep=10e-9 out_steps=1

vsource:Vdd 1 0 vdc=5
vpulse:Vin 2 0 v1=0 v2=5 per=2e-6 pw=1e-6 tr=0.05e-6 tf=0.05e-6 

cmosinv:inverter 1 2 3 0 td=0.1e-6
resistor:R 3 0 r=1000000

.out plot term 1 vt in "vdd.out"
.out plot term 2 vt in "input-to-inverter.out"
.out plot term 3 vt in "output-from-inverter-with-delay.out"
.end

