* CMOS NAND Gate Test

.dc sweep="vsource:Vin2" start=0 stop=5 step=0.1

vsource:Vdd 1 0 vdc=5
vsource:Vin1 2 0 vdc=5
vsource:Vin2 3 0 

cmosnand:nand 1 2 3 4 0
resistor:R 4 0 r=1000000

.out plot term 4 vt in "cmos_nand_dc.out"

.end
