*One-shot Trigger.
*This cicruit generates a pulse of a predetermined width 
*triggered by an input event. BSIM3 test.

*A two-gate delay element

*vdd 1 
*in 2
*4 3
*A 4
*Anot 5
*Bnot 6
*AorBnot 7
*1 8
*Lnot 9
*2 10
*out 11
*3 12
vsource:vcc 1 0 vdc=5 
vpulse:vin 2 0  v1=0.0 v2=5 td=0.0n tr=0.2ns tf=0.2ns pw=8ns per=50ns

Mospbsim3:md1 3 2 1 1  w=3.6u l=1.2u u0=0.025
Mosnbsim3:Md2 3 2 0 0  w=1.8u l=1.2u u0=0.067
capacitor:c4 3 0 c=30f
Mospbsim3:Md3 4 3 1 1  w=3.6u l=1.2u u0=0.025
Mosnbsim3:Md4 4 3 0 0  w=1.8u l=1.2u u0=0.067
capacitor:ca 4 0 c=30f

*EXOR gate
*A inverter

Mospbsim3:M1 5 4 1 1  w=3.6u l=1.2u u0=0.025
Mosnbsim3:M2 5 4 0 0  w=1.8u l=1.2u u0=0.067

Mospbsim3:M3 6 2 1 1  w=3.6u l=1.2u u0=0.025
Mosnbsim3:M4 6 2 0 0  w=1.8u l=1.2u u0=0.067

Mospbsim3:M5 7 0 1 1  w=1.8u l=3.6u u0=0.025
Mosnbsim3:M6 7 2 8 8  w=1.8u l=1.2u u0=0.067
Mosnbsim3:M7 8 5 0 0  w=1.8u l=1.2u u0=0.067

Mospbsim3:M8 9 0 1 1  w=1.8u l=3.6u u0=0.025  
Mosnbsim3:M9 9 6 10 10 w=1.8u l=1.2u u0=0.067
Mosnbsim3:M10 10 4 0 0 w=1.8u l=1.2u u0=0.067

Mospbsim3:M11 11 0 1 1  w=3.6u l=3.6u u0=0.025  
Mosnbsim3:M12 11 7 12 12 w=1.8u l=1.2u u0=0.067
Mosnbsim3:M13 12 9 0 0 w=1.8u l=1.2u u0=0.067
*end of EXOR gate


.tran tstep= 0.1n tstop=100n  cm=1
*.dc
.out plot term 11  vt in "trigger.out"
.out plot term 7 vt in "trigger7.out"
.out plot term 6 vt in "trigger6.out"
.out plot term 2 vt in "trigger.in"
.out plot term 1 vt in "trigger.vdd"
.end




